US06953857B2
(i) 4-Ethoxy-3-hydroxy-benzoic acid ethyl ester
5 g (27.2 mmol) of 3,4-Dihydroxy-benzoic acid ethyl ester was dissolved in 100 ml DMF and 3.75 g (27.2 mmol) of potassium carbonate was added. The solution was cooled to 0° C. and a solution of 2.96 g (27.2 mmol) ethyl bromide in 10 ml DMF was added dropwise. The solution was stirred for 16 h at room temperature (RT). The solvent was removed under reduced pressure. The residue was taken-up in ethyl acetate and the solution was washed three times with water and twice with saturated aqueous sodium chloride. The organic phase was dried with magnesium sulphate, filtered and the solvent was removed under reduced pressure. The residue was chromatographed on silica gel eluting with ethyl acetate/n-heptane (1/4).

reactant | 3,4-Dihydroxy-benzoic acid ethyl ester | 27.2 mmol, 5 g | C(C)OC(C1=CC(=C(C=C1)O)O)=O | C9H10O4
reactant | potassium carbonate | 27.2 mmol, 3.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromide | 27.2 mmol, 2.96 g | C(C)Br | C2H5Br
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-Ethoxy-3-hydroxy-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)OCC)O)=O | C11H14O4
